### PR TITLE
[Merged by Bors] - feat: Lévy-Prokhorov distance

### PR DESCRIPTION
**Pull request by kkytola**
This PR adds the Lévy-Prokhorov distance on the space of finite measures on an emetric space, and shows that it is a pseudoemetric.

---
 
 *  In Borel spaces, it can be shown that the Lévy-Prokhorov distance is a metric (not just a pseudoemetric). For this, the uniqueness of weak limits PR #8498 would give the right tools.
 * In future PRs, I intend to show that on separable metric spaces, the Lévy-Prokhorov distance metrizes the weak convergence of Borel probability measures (convergence in distribution).

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 1]
```diff
@@ -0,0 +1,228 @@
...
+            μ B ≤ ν (thickening ε.toReal B) + ε ∧ ν B ≤ μ (thickening ε.toReal B) + ε}
+
+lemma measure_apply_le_of_le_of_forall_le_measure_thickening_add {ε₁ ε₂ : ℝ≥0∞} (μ ν : Measure Ω)
+    (h_le : ε₁ ≤ ε₂) {B : Set Ω} (hε₁ : μ B ≤ ν (thickening ε₁.toReal B) + ε₁):
+    μ B ≤ ν (thickening ε₂.toReal B) + ε₂ := by
+  by_cases ε_top : ε₂ = ∞
+  · simp only [ne_eq, FiniteMeasure.ennreal_coeFn_eq_coeFn_toMeasure, ε_top, top_toReal,
+                add_top, le_top]
+  apply hε₁.trans (add_le_add ?_ h_le)
+  exact measure_mono (μ := ν) (thickening_mono (toReal_mono ε_top h_le) B)
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:59]: This belongs to an earlier file, right?

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 2]
```diff
@@ -0,0 +1,228 @@
...
+Authors: Kalle Kytölä
+-/
+import Mathlib.MeasureTheory.Measure.ProbabilityMeasure
+
+/-!
+# The Lévy-Prokhorov distance on spaces of finite measures and probability measures
+
+## Main definitions
+
+* `MeasureTheory.levyProkhorovEDist`: The Lévy-Prokhorov distance between two measures.
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:13]: Do you think it matters for the name that it's not real-valued? I would just name it `levyProkhorovDist` for simplicity.

Comment (urkud) [reply Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:13]: It is the `edist` in the corresponding `PseudoEMetricSpace`. For finite measures it is finite, so we can define a `PseudoMetricSpace` (not done in this PR yet).

Comment (urkud) [reply Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:13]: BTW, should we do this?
```
def LevyProkhorov (α : Type*) := α

instance : PseudoEMetricSpace (LevyProkhorov (Measure α)) := _
instance : PseudoMetricSpace (LevyProkhorov (FiniteMeasure α)) := _
instance : PseudoMetricSpace (LevyProkhorov (ProbabilityMeasure α)) := _
```

**Comment by urkud** [comment]
I golfed 2 proofs, going to look into the triangle inequality now.

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 3]
```diff
@@ -0,0 +1,195 @@
...
+    congr
+    apply add_le_add_right (measure_mono _)
+    apply (thickening_thickening_subset _ _ _).trans (thickening_mono _ _)
+    rw [← ENNReal.toReal_add]
+    · simp_rw [add_assoc, add_comm (ε / 2), add_assoc, ENNReal.add_halves, ← add_assoc]
+      rw [add_comm (levyProkhorovEDist _ _)]
+    · simp only [add_ne_top]
+      refine ⟨ne_top_of_lt lt_r, (ENNReal.div_lt_top ε_lt_top.ne two_ne_zero).ne⟩
+    · simp only [add_ne_top]
+      refine ⟨ne_top_of_lt lt_s, (ENNReal.div_lt_top ε_lt_top.ne two_ne_zero).ne⟩
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:173]: I rewrote that proof with calc blocks and I think it's more readable that way. What do you think?
```suggestion
lemma levyProkhorovEDist_triangle (μ ν κ : Measure Ω) :
    levyProkhorovEDist μ κ ≤ levyProkhorovEDist μ ν + levyProkhorovEDist ν κ := by
  by_cases LPμν_finite : levyProkhorovEDist μ ν = ∞
  · simp [LPμν_finite]
  by_cases LPνκ_finite : levyProkhorovEDist ν κ = ∞
  · simp [LPνκ_finite]
  apply levyProkhorovEDist_le_of_forall_add_pos_le
  intro ε B ε_pos ε_lt_top B_mble
  have half_ε_pos : 0 < ε / 2 := ENNReal.div_pos ε_pos.ne' two_ne_top
  have half_ε_lt_top : ε / 2 < ∞ := ENNReal.div_lt_top ε_lt_top.ne two_ne_zero
  let r := levyProkhorovEDist μ ν + ε / 2
  let s := levyProkhorovEDist ν κ + ε / 2
  have lt_r : levyProkhorovEDist μ ν < r := lt_add_right LPμν_finite half_ε_pos.ne'
  have lt_s : levyProkhorovEDist ν κ < s := lt_add_right LPνκ_finite half_ε_pos.ne'
  have hs_add_r : s + r = levyProkhorovEDist μ ν + levyProkhorovEDist ν κ + ε := by
    simp_rw [add_assoc, add_comm (ε / 2), add_assoc, ENNReal.add_halves, ← add_assoc,
      add_comm (levyProkhorovEDist μ ν)]
  have hs_add_r' : s.toReal + r.toReal
      = (levyProkhorovEDist μ ν + levyProkhorovEDist ν κ + ε).toReal := by
    rw [← hs_add_r, ← ENNReal.toReal_add]
    · exact ENNReal.add_ne_top.mpr ⟨LPνκ_finite, half_ε_lt_top.ne⟩
    · exact ENNReal.add_ne_top.mpr ⟨LPμν_finite, half_ε_lt_top.ne⟩
  rw [← hs_add_r', add_assoc, ← hs_add_r, add_assoc _ _ ε, ← hs_add_r]
  refine ⟨?_, ?_⟩
  · calc μ B ≤ ν (thickening r.toReal B) + r :=
      left_measure_le_of_levyProkhorovEDist_lt lt_r B_mble
    _ ≤ κ (thickening s.toReal (thickening r.toReal B)) + s + r :=
      add_le_add_right
        (left_measure_le_of_levyProkhorovEDist_lt lt_s isOpen_thickening.measurableSet) _
    _ = κ (thickening s.toReal (thickening r.toReal B)) + (s + r) := add_assoc _ _ _
    _ ≤ κ (thickening (s.toReal + r.toReal) B) + (s + r) :=
      add_le_add_right (measure_mono (thickening_thickening_subset _ _ _)) _
  · calc κ B ≤ ν (thickening s.toReal B) + s :=
      right_measure_le_of_levyProkhorovEDist_lt lt_s B_mble
    _ ≤ μ (thickening r.toReal (thickening s.toReal B)) + r + s :=
      add_le_add_right
        (right_measure_le_of_levyProkhorovEDist_lt lt_r isOpen_thickening.measurableSet) s
    _ = μ (thickening r.toReal (thickening s.toReal B)) + (s + r) := by rw [add_assoc, add_comm r]
    _ ≤ μ (thickening (r.toReal + s.toReal) B) + (s + r) :=
      add_le_add_right (measure_mono (thickening_thickening_subset _ _ _)) _
    _ = μ (thickening (s.toReal + r.toReal) B) + (s + r) := by rw [add_comm r.toReal]
```

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 4]
```diff
@@ -0,0 +1,195 @@
...
+
+/-- The Lévy-Prokhorov distance `levyProkhorovEDist` makes `FiniteMeasure X` a pseudoemetric
+space. -/
+noncomputable def levyProkhorovEDist_pseudoEMetricSpace_finiteMeasure :
+    PseudoEMetricSpace (FiniteMeasure Ω) where
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:178]: With this definition, you are registering a new topology on `FiniteMeasure Ω`. This is not a problem, since this definition is not registered as an instance, but if one day you want to register it as an instance you better make sure that the topology it defines is definitionally the same as the usual topology given by weak convergence against bounded functions. This is not the case currently. Are you planning to refactor the definition once you have shown that the topology generated by the Levy-Prokhorov distance is the weak topology? Or use this one as an intermediate step? In any case, I think this is worth discussing in the docstring. Same thing for the next definition.

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean (hunk 2 above)
Comment (kkytola) [reply Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:13]: Indeed the idea was that on `FiniteMeasure X` and `ProbabilityMeasure X` the Lévy Prokhorov distance is an actual pseudometric. (And in Borel spaces furthermore an actual metric.) The pseudometric requires an extra post-composition with `ENNReal.toReal`, so I avoided calling this definition just "dist".

I did plan to add a type synonym indeed to do comparisons of the topology with weak convergence, like @urkud suggested. Since the comparisons of the topology are in later PRs (some of which I haven't even written locally), I also did not yet introduce the type synonym in this PR.

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean (hunk 4 above)
Comment (kkytola) [reply Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:178]: Yes, I did not make this an instance because the topology of weak convergence is more generally the right one. 

Under the further assumptions of Borel sigma algebra and separability, the generated topology will be the same (propeq, I don't know whether it could be made defeq).

I mainly intended to use the Lévy-Prokhorov metric to show metrizability of the topology of weak convergence under those assumptions; I thought for just metrizability defeqs should not matter. I did not plan to add the (pseudo)metric as a global instance, just add metrizability as an instance under the assumptions that it holds.

Do these make sense? I don't have strong opinions about them, but the point is that my plan with Lévy-Prokhorov metric was very limited.

Comment (kkytola) [reply Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:178]: I will add some comment in the docstring.

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean (hunk 3 above)
Comment (kkytola) [reply Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:173]: Great, thanks! Your calc block version is a readability improvement.

(Btw, in my opinion this proof still shows that it is still slightly painful to work with `ENNReals` at times.)

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean (hunk 1 above)
Comment (kkytola) [reply Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:59]: This feels quite Lévy-Prokhorov-specific to me, but I have nothing else against moving it.

(One way to see that it is rather specific is that it involves a sum of a measure and a distance: two things that would normally have totally different units and should not be added together. I can only think of Lévy-Prokhorov metric and some coupling arguments which eventually argue with Lévy-Prokhorov metric, which would "mix quantities of different units" in this way.)

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean (hunk 4 above)
Comment (kkytola) [reply Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:161]: Actually maybe these should be only put on a type synonym as Yury suggested.

Indeed the `PseudoEMetricSpace` would be a kind of an intermediate step when I would show comparisons of the two topologies: the LP-metric one is generally finer than that of weak convergence, but in separable Borel spaces equal. For this comparison of topologies I wanted a `PseudoEMetricSpace` with its topology (but which was not meant as an instance). The type synonym approach seems less confusing anyway, so I will switch to it.

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 5]
```diff
@@ -0,0 +1,222 @@
...
+
+variable {ι : Type*} {Ω : Type*} [MeasurableSpace Ω] [MetricSpace Ω]
+
+/-- The Lévy-Prokhorov edistance between measures:
+`d(μ,ν) = inf {r ≥ 0 | ∀ B, μ B ≤ ν Bᵣ + r ∧ ν B ≤ μ Bᵣ + r}`. -/
+noncomputable def levyProkhorovEDist (μ ν : Measure Ω) : ℝ≥0∞ :=
+  sInf {ε | ∀ B, MeasurableSet B →
+            μ B ≤ ν (thickening ε.toReal B) + ε ∧ ν B ≤ μ (thickening ε.toReal B) + ε}
+
+lemma measure_apply_le_of_le_of_forall_le_measure_thickening_add {ε₁ ε₂ : ℝ≥0∞} (μ ν : Measure Ω)
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:52]:
```suggestion
lemma meas_le_of_le_of_forall_le_meas_thickening_add {ε₁ ε₂ : ℝ≥0∞} (μ ν : Measure Ω)
```

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:59]: I don't have strong opinions, but it might be good to record whatever your decision is in a comment or docstring.

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks a lot, that's great!

**Comment by kkytola** [comment]
Thank you for the reviews and improvements!

bors r+
